US08039483B2
Carbonic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester bis-(2-chloro-phenyl)-methyl ester
The desired product was prepared by reacting imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester with bis(2-chlorophenyl)methanol.

reactant | imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(=O)N2C=NC=C2 | C11H15N3O2
reactant | bis(2-chlorophenyl)methanol | ClC1=C(C=CC=C1)C(O)C1=C(C=CC=C1)Cl | C13H10Cl2O
product | Carbonic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester bis-(2-chloro-phenyl)-methyl ester | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)Cl)OC(O[C@H]1CN2CCC1CC2)=O | C21H21Cl2NO3
